US07482485B2
An example will be described, in which slurry of terephthalic acid is produced by hydrolyzing dimethyl terephthalate by using the aforementioned apparatus. Dimethyl terephthalate and water are introduced into an agitation vessel (which is used as a hydrolysis reaction vessel) 1 through a raw material introducing path 6. Hydrolysis reaction is then carried out under stirring by rotating an agitation blade 3 with a driving unit 5. At this time, the system may be heated depending on necessity. Dimethyl terephthalate is hydrolyzed through hydrolysis reaction to form terephthalic acid, which is deposited as crystals in the agitation vessel. Accordingly, slurry containing terephthalic acid and water is formed in the agitation vessel. The slurry is extracted through a slurry extraction tube 7 and sent to a subsequent hydrolysis reactor or a tank.

reactant | Dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
solvent | water | O | H2O
product | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
